US06002008
4-[3-Chloro-4-(phenylthio)phenylamino]-6,7-diethoxy-3-quinolinecarbonitrile
In the manner of Example 105 reaction of 4-chloro-6,7-diethoxy-3-quinolinecarbonitrile with 3-chloro-4-(phenylthio)aniline gave the title compound as a tan solid, mp 88-94° C.

reactant | 4-chloro-6,7-diethoxy-3-quinolinecarbonitrile | ClC1=C(C=NC2=CC(=C(C=C12)OCC)OCC)C#N | C14H13ClN2O2
reactant | 3-chloro-4-(phenylthio)aniline | ClC=1C=C(N)C=CC1SC1=CC=CC=C1 | C12H10ClNS
product | 4-[3-Chloro-4-(phenylthio)phenylamino]-6,7-diethoxy-3-quinolinecarbonitrile | ClC=1C=C(C=CC1SC1=CC=CC=C1)NC1=C(C=NC2=CC(=C(C=C12)OCC)OCC)C#N | C26H22ClN3O2S
